US20010044535A1
G. 4-(tert-Butyloxycarbonyl)hydrocinnamic acid
The product of Ex. A-23, Part F, (14 g, 55.5 mM) was dissolved in 90 mL of tetrahydrofuran. 1N Lithium hydroxide (90 ml) was added and the reaction stirred at room temperature for 20 min. The reaction mixture was poured into 200 mL of 1:1 mixture of 1N HCl and saturated citric acid, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and evaporated to yield a white solid (13 g 100%). 1H NMR (CDCl3) δ 1.59 (s, 9H), 2.70 (t, J=7 Hz, 2H), 3.00 (t, J=7 Hz, 2H), 7.24 (d, J=8 Hz, 2H), 7.90, (d, J=8 Hz, 2H).

reactant | Lithium hydroxide | 1N, 90 ml | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 4-(tert-Butyloxycarbonyl)hydrocinnamic acid | C(C)(C)(C)OC(=O)C1=CC=C(CCC(=O)O)C=C1 | C14H18O4
